* extracted by klt extract --deck sg13g2

* cell cp_nfet_w8_l1
* pin vsubs
.SUBCKT cp_nfet_w8_l1 vsubs
* device instance $1 r0 *1 0.92,4 nfet
M$1 \$2 \$5 \$1 vsubs nfet L=1U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $2 r0 *1 3.16,4 nfet
M$2 \$4 \$6 \$3 vsubs nfet L=1U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
.ENDS cp_nfet_w8_l1
